US04948796
7.0 g of 3-nitro-5-[4-{(E)-3-(3-triphenylmethylaminophenyl)allyl}piperazin-1-yl]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene was dissolved in 20 ml of acetic acid and 20 ml of methanol. The solution was stirred for 2 hours at 40° C. The solvent was removed by distillation under reduced pressure. The residue was dissolved in 100 ml of ethyl acetate. The solution was washed with a saturated aqueous sodium hydrogen-carbonate solution, water and a saturated aqueous sodium chloride solution in this order and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: chloroform/ethanol=50/1) to obtain 3.77 g of light yellow solid 3-nitro-5-[4-{(E)-3-(3-aminophenyl)allyl}-piperazin-1-yl]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene.

reactant | 3-nitro-5-[4-{(E)-3-(3-triphenylmethylaminophenyl)allyl}piperazin-1-yl]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 7.0 g | [N+](=O)([O-])C=1C=CC2=C(C(C3=C(CC2)C=CC=C3)N3CCN(CC3)C\C=C\C3=CC(=CC=C3)NC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C1 | C47H44N4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
product | 3-nitro-5-[4-{(E)-3-(3-aminophenyl)allyl}-piperazin-1-yl]-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | [N+](=O)([O-])C=1C=CC2=C(C(C3=C(CC2)C=CC=C3)N3CCN(CC3)C\C=C\C3=CC(=CC=C3)N)C1 | C28H30N4O2
